US04406690
A mixture of 3,4,5,6-tetrahydrophthalic anhydride (0.4 g), 5-amino-2-(4-chlorophenethoxy)pyridine (0.6 g) and acetic acid (20 ml) is heated to reflux. After about 1.5 hours, the reaction is cooled and concentrated to about one-half volume. On standing a crystalline solid precipitation which is collected by filtration and washed with 10% ethyl acetate/hexane to yield N-[2-(4-chlorophenethoxy)-5-pyridyl]-3,4,5,6-tetrahydrophthalimide.

reactant | 3,4,5,6-tetrahydrophthalic anhydride | 0.4 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | 5-amino-2-(4-chlorophenethoxy)pyridine | 0.6 g | NC=1C=CC(=NC1)OCCC1=CC=C(C=C1)Cl | C13H13ClN2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-[2-(4-chlorophenethoxy)-5-pyridyl]-3,4,5,6-tetrahydrophthalimide | ClC1=CC=C(CCOC2=NC=C(C=C2)N2C(C3=C(C2=O)CCCC3)=O)C=C1 | C21H19ClN2O3
